US04546197
Monohydroxyacetone was distilled prior to use. Chloroform was distilled from phosphorus pentoxide prior to use. Decanoyl chloride (65 cm3, 0.3146 mole) was added dropwise to stirred solution of monohydroxyacetone (21.8 cm3, 0.3146 mole) and anydrous pyridine (25.4 cm3, 0.3146 mole) in anhydrous chloroform (500 cm3). During the addition the solution was maintained in an ice bath. The mixture was then stirred at room temperature overnight. The solution was washed with water (4×200 cm3) and saturated sodium chloride solution (200 cm3). The organic phase was dried over sodium sulphate and evaporated in vacuo. The resulting oil was distilled to yield 1-decanoyloxypropan-2-one as a mobile liquid, bp 154°-60° (1 mm) (52.4 g, 0.230 mole, 73%),ir (neat) 2860, 1700, 1400, 1340, 1150, 1110 and 1050 cm-1 ; pmr (CDCI3) δ 4.6 (s, 2 H), 2.4 (t, 2 H), 2.1 (s, 3 H), 1.8-1.0 (bm, 14 H) and 0.9 (t, 3 H) ppm.

reactant | Decanoyl chloride | 0.3146 mole, 65 cm3 | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | monohydroxyacetone | 0.3146 mole, 21.8 cm3 | OCC(C)=O | C3H6O2
reactant | pyridine | 0.3146 mole, 25.4 cm3 | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 500 cm3 | C(Cl)(Cl)Cl | CHCl3
product | 1-decanoyloxypropan-2-one | C(CCCCCCCCC)(=O)OCC(C)=O | C13H24O3
